US08119676B2
tert-Butyl 5-iodo-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate (VIb)
A solution of 9.90 (29.8 mmol) of ethyl 6-iodo-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate (Vb) in tetrahydrofuran (120 ml) was mixed with 7.81 g (35.7 mmol) of Boc2O and a catalytic amount of DMAP and stirred at room temperature for 1 h. Then, 3.33 ml (38.8 mmol) of isopropylamine were added to the reaction solution, and it was stirred for a further 45 min. The reaction solution was concentrated in vacuo and slurried with heptane. The solid was filtered off, washed with heptane and dried in vacuo.

reactant | ethyl 6-iodo-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate | IC=1C=CC2=C(N(C(N2)=O)C(=O)OCC)C1 | C10H9IN2O3
reactant | Boc2O | 35.7 mmol, 7.81 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | isopropylamine | 38.8 mmol, 3.33 ml | C(C)(C)N | C3H9N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 5-iodo-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate | IC1=CC2=C(N(C(N2)=O)C(=O)OC(C)(C)C)C=C1 | C12H13IN2O3
